US05563162
To a mixture of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline (150 ml), triethylamine (0.077 ml) and dichloromethane (1.5 ml) was added bromoacetyl chloride (0.034 ml) in a dry ice-acetone bath. After 30 minutes, to the mixture was added N-methyl-N-cycloheptylamine (236 mg). The mixture was stirred for 3 hours at ambient temperature. The reaction mixture was washed with aqueous sodium bicarbonate solution, water and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography (dichloromethane-methanol) to yield 8-[3-[N-[(N-cycloheptyl-N-methylglycyl)glycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (151 mg) as amorphous.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline | 150 ml | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C20H19Cl2N3O2
reactant | triethylamine | 0.077 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl chloride | 0.034 ml | BrCC(=O)Cl | C2H2BrClO
reactant | N-methyl-N-cycloheptylamine | 236 mg | CNC1CCCCCC1 | C8H17N
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 8-[3-[N-[(N-cycloheptyl-N-methylglycyl)glycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 151 mg | C1(CCCCCC1)N(CC(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl)C | C30H36Cl2N4O3
